US03950393
A mixture of 10 gm of 2-acetamino-5-cyano-N,N-diethyl-benzylamine, 100 ml of 5 N sodium hydroxide and 70 ml of ethanol was boiled for 4 hours. Thereafter, the reaction solution was cooled, diluted with 200 ml of water and extracted three times with 250 ml of chloroform each. The combined chloroform extracts were dried over sodium sulfate and evaporated in vacuo, and the residue was recrystallized from ethanol. The 2-amino-5-carbamoyl-N,N-diethyl-benzylamine of m.p. 129°-131°C was obtained.

reactant | 2-acetamino-5-cyano-N,N-diethyl-benzylamine | 10 gm | N(C(=O)C)C1=C(CN(CC)CC)C=C(C=C1)C#N | C14H19N3O
reactant | sodium hydroxide | 5 N, 100 ml | [OH-].[Na+]
reactant | ethanol | 70 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 2-amino-5-carbamoyl-N,N-diethyl-benzylamine | NC1=C(CN(CC)CC)C=C(C=C1)C(N)=O | C12H19N3O
